US06391874B1
2-(Methylsulphonamido)ethylamine hydrochloride
N-[2-(Methylsulphonamido)ethyl]acetamide (14.5 g, 88.3 mmol) and concentrated hydrochloric acid (100 ml) were dissolved in water (100 ml) and heated to reflux for a total of 3 hours. After cooling, the water was removed in vacuo, and the residue was left for several days at room temperature until crystallisation was underway. Trituration with a mixture of ethanol and ether gave the title compound as a white solid which was dried in vacuo at 60° C. (7.5 g, 42.9 mmol, 49%); δH [2H6]DMSO 8.22 (2H,br s), 7.42 (1H,t), 3.23 (2H,q), 2.87 (3H,s), 2.85-2.95 (2H,m).

reactant | N-[2-(Methylsulphonamido)ethyl]acetamide | 88.3 mmol, 14.5 g | CS(=O)(=O)NCCNC(C)=O | C5H12N2O3S
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 2-(Methylsulphonamido)ethylamine hydrochloride | Cl.CS(=O)(=O)NCCN | InChI=1S/C3H10N2O2S.ClH/c1-8(6,7)5-3-2-4;/h5H,2-4H2,1H3;1H
